US06586430B1
1-[(Benzyloxy)carbonyl]-3-azetidinecarboxylic Acid
A solution of 3-azetidine carboxylic acid (0.50 g, 4.9 mmol), trimethylsilyl chloride (1.25 ml, 9.8 mmol) and N-ethyldiisopropylamine (2.20 ml, 12.6 mmol) was heated under reflux in dichloromethane (20 ml) for 20 minutes. The reaction mixture was cooled in an ice bath and benzyl chloroformate (0.92 ml, 6.4 mmol) added. The mixture was stirred at room temperature for 72 hours before quenching with saturated aqueous sodium bicarbonate solution. The layers were separated and the aqueous phase was acidified to pH2 with 2N hydrochloric acid and extracted with ethyl acetate (3×). The combined organic extracts were dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound as a brown oil, 1.01 g.

reactant | 3-azetidine carboxylic acid | 4.9 mmol, 0.50 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | trimethylsilyl chloride | 9.8 mmol, 1.25 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | N-ethyldiisopropylamine | 12.6 mmol, 2.20 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 6.4 mmol, 0.92 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[(Benzyloxy)carbonyl]-3-azetidinecarboxylic Acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
